US07012077B2
A solution of 9.0 g (33.66 mmol) of trans-[4-(3-Hydroxy-prop-1-ynyl)-cyclohexyl]-methyl-carbamic acid tert-butyl ester in 185 ml CH2Cl2 was treated at 0° C. with 136 ml of TFA (for 30 min). After 15 min at this temperature, the reaction was evaporated, treated with cold (0° C.) 1 N NaOH (saturated with NaCl) and extracted with CH2Cl2/MeOH 9:1 (3×). The organic phase was dried over Na2SO4 and evaporated to yield 5.84 g (quantitative) of trans-3-(4-Methylamino-cyclohexyl)-prop-2-yn-1-ol, MS: 167 (M).

reactant | trans-[4-(3-Hydroxy-prop-1-ynyl)-cyclohexyl]-methyl-carbamic acid tert-butyl ester | 33.66 mmol, 9.0 g | C(C)(C)(C)OC(N(C)[C@@H]1CC[C@H](CC1)C#CCO)=O | C15H25NO3
reactant | TFA | 136 ml | C(=O)(C(F)(F)F)O | C2HF3O2
solvent | CH2Cl2 | 185 ml | C(Cl)Cl | CH2Cl2
product | trans-3-(4-Methylamino-cyclohexyl)-prop-2-yn-1-ol | 5.84 g | CN[C@@H]1CC[C@H](CC1)C#CCO | C10H17NO
